US06589954B1
Preparation of 4-(2,6-Difluorobenzyl)-piperazinyl-benzimidazole-5-carboxamide
Piperazinyl-benzimidazole-5-carboxamide (0.186 g, 0.5 mMol) was taken in 5 mL DMF and 0.101 g (1 mMol) triethylamine was added and stirred for 15 minutes at room temperature. To this reaction mixture was added 0.104 g 2,6-difluorobenzyl bromide and the mixture was stirred for 20 h. This was poured into water and extracted with methylene chloride (3×50 mL). The combined extract was further washed with brine, water and dried over MgSO4. The solvent was removed in vacuo and the residue chromatographed on silica gel eluting with chloroform-methanol (0 to 5% methanol, gradient). Evaporation of the desired fraction gave 48.9 mg of the desired product; MS(ESI) m/e 356 (M+).

reactant | Piperazinyl-benzimidazole-5-carboxamide | 0.5 mMol, 0.186 g | N1(CCNCC1)C=1NC2=C(N1)C=CC(=C2)C(=O)N | C12H15N5O
reactant | triethylamine | 1 mMol, 0.101 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzyl bromide | 0.104 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(2,6-Difluorobenzyl)-piperazinyl-benzimidazole-5-carboxamide | 48.9 mg | FC1=C(CN2CCN(CC2)C=2NC3=C(N2)C=CC(=C3)C(=O)N)C(=CC=C1)F | C19H19F2N5O
